US07294628B2
A) 1-Benzyl-4-(3-methoxyphenyl)-4-piperidinol.
This compound is prepared by the procedure described in step A of preparation 1.7, from 1.55 g of magnesium in 25 ml of THF, a solution of 12 g of 3-bromoanisole and 15 ml of THF and a solution of 10 g of 1-benzyl-4-piperidone in 30 ml of THF. The product obtained is chromatographed on silica gel, eluting with a DCM/MeOH (97/3 to 95/5; v/v) mixture. This gives 13.7 g of the expected product.

reactant | magnesium | 1.55 g | [Mg] | Mg
reactant | 3-bromoanisole | 12 g | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | 1-benzyl-4-piperidone | 10 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 1-Benzyl-4-(3-methoxyphenyl)-4-piperidinol | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC(=CC=C1)OC | C19H23NO2
